*******************************************************************************
*****************************************************************
* NXP BUK7Y53_100B
*
* Polarity N-Channel
* Ratings 100V/5.30E-02OHMS/10A
*
* Date Created Tue Feb  9 01:10:00 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y53_100B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 2000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0386177739046149 TC=0.00776150630524959,-1.20902211439214e-05
RBD 9 4 0.0026707867088659 TC=0.00776150630524959,-1.20902211439214e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 1.05e-09
RG 1 2 1.38060161358437

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	
+ -20	
+ -10	825
+ -5	823
+ -2	852
+ -1	659
+ -0.5	560
+ -0.2	504
+ -0.1	484
+ 0	462.5
+ 0.1	434
+ 0.2	402
+ 0.5	294
+ 1	198
+ 2	150
+ 5	109
+ 10	86
+ 20	67
+ 30	61



.MODEL MINT NMOS(Vto=3.36198912692288 Kp=3.8321e+01 Nfs=540000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=112.00 Ibv=2.50E-04 Rs=1E-6 Is=8.71955708371703e-13
+ N=1 M=0.64 VJ=0.85 Fc=0.5 Cjo=5.49e-10 Tt=2.8e-08)

.ENDS

*******************************************************************************
